US04287340
I. Ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate
A mixture of 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno-[3,4-d]pyrimidine-7-carboxylic Acid (15 g., 0.06 mol) and 1,1' carbonyldiimidazole (9.8 g, 0.06 mol) in dimethylformamide (12 ml) and tetrahydrofuran (700 ml) is refluxed with stirring for 3 hours. Absolute ethanol (20 ml) is added and refluxing is continued for a further 3 hours. The solvents are removed under reduced pressure. The residue is shaken with hot 0.5 mol aqueous sodium bicarbonate (200 ml), cooled and filtered. The residue is washed several times with water and recrystallized from methanol to give the product (8.9 g.) mp 183°-185° C.

reactant | 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno-[3,4-d]pyrimidine-7-carboxylic Acid | 0.06 mol, 15 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)CSC2 | C11H8N2O3S
reactant | 1,1' carbonyldiimidazole | 0.06 mol, 9.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | 0.5 mol, 200 ml | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | Ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)OCC)CSC2 | C13H12N2O3S
